US09315475B2
Step 7: tert-Butyl (2R,5R)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-(hydroxymethyl)morpholine-4-carboxylate
POCl3 (0.579 mL, 6.21 mmol) was added to a solution of tert-Butyl (2R,5S)-2-[2-(3-amino-5-fluoropyridin-4-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (2.65 g, 5.64 mmol) and N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanine [Patterson, D. E., et al. Org. Proc. Res. Dev. 2009, 13, 900-906.] (2.13 g, 5.64 mmol) in pyridine (28 mL) at −15° C. The reaction stirred for 30 min then warmed to 0° C. and stirred for 3 hours. The reaction was quenched with saturated aqueous KH2PO4, then brine and the mixture was extracted with ethyl acetate (×3). The combined organic fractions were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure to afford a brown viscous oil. The resulting oil was dissolved in THF (28 mL) and a 1M solution of TBAF (11.3 mL, 11.3 mmol) in THF was added and the reaction stirred at ambient temperature overnight. The reaction was quenched with saturated aqueous KH2PO4 and the mixture was extracted with ethyl acetate (×3). The combined organic fractions were dried (MgSO4), filtered and the solvent was evaporated under reduced pressure. Purification on silica gel (330 g) eluting with a gradient of 0-100% CHCl3 to 70:20:10 CHCl3/EtOAc/MeOH afforded the title compound (2.07 g, 2.90 mmol, 51% yield) as a white solid, MS (ESI): m/z=715.48 (MH+); 100% pure by LCMS.

reactant | POCl3 | 6.21 mmol, 0.579 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | tert-Butyl (2R,5S)-2-[2-(3-amino-5-fluoropyridin-4-yl)ethyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 5.64 mmol, 2.65 g | NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)F | C23H40FN3O4Si
reactant | N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanine | 5.64 mmol, 2.13 g | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)O | C20H21F2NO4
reactant | TBAF | 11.3 mmol, 11.3 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | pyridine | 28 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | tert-Butyl (2R,5R)-2-[2-(3-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-5-fluoropyridin-4-yl)ethyl]-5-(hydroxymethyl)morpholine-4-carboxylate | 2.90 mmol, 2.07 g, 51% yield | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC=1C=NC=C(C1CC[C@@H]1CN([C@@H](CO1)CO)C(=O)OC(C)(C)C)F | C37H45F3N4O7
